US04849513
Note: N-benzyloxycarbonyl-6-aminohexanoic acid p-nitrophenyl ester was synthesized by standard techniques from N-benzyloxycarbonyl-6-aminohexanoic acid (Sigma Chemical Company), p-nitrophenol (Aldrich Chemical Company), and N,N1 -dicyclohexylcarbodiimide (Aldrich Chemical Company) in ethyl acetate solution.

reactant | N-benzyloxycarbonyl-6-aminohexanoic acid | C(C1=CC=CC=C1)OC(=O)NCCCCCC(=O)O | C14H19NO4
reactant | p-nitrophenol | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-benzyloxycarbonyl-6-aminohexanoic acid p-nitrophenyl ester | [N+](=O)([O-])C1=CC=C(C=C1)OC(CCCCCNC(=O)OCC1=CC=CC=C1)=O | C20H22N2O6
